US04650796
2-(4-Chlorophenyl)-3-benzoylaminomethyl-6-methylimidazo[1,2-a]pyridine.
To a solution of 4.54 g (0.03 mol) of N-(hydroxymethyl)benzamide in 50 ml of glacial acetic acid, 2 g of concentrated sulphuric acid are added, and then, after 15 minutes' heating at 50° C., 4.8 g (0.02 mol) of 2-(4-chlorophenyl)-6-methylimidazo[1,2-a]pyridine are added.

reactant | N-(hydroxymethyl)benzamide | 0.03 mol, 4.54 g | OCNC(C1=CC=CC=C1)=O | C8H9NO2
reactant | sulphuric acid | 2 g | S(O)(O)(=O)=O | H2O4S
reactant | 2-(4-chlorophenyl)-6-methylimidazo[1,2-a]pyridine | 0.02 mol, 4.8 g | ClC1=CC=C(C=C1)C=1N=C2N(C=C(C=C2)C)C1 | C14H11ClN2
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 2-(4-Chlorophenyl)-3-benzoylaminomethyl-6-methylimidazo[1,2-a]pyridine | ClC1=CC=C(C=C1)C=1N=C2N(C=C(C=C2)C)C1CNC(C1=CC=CC=C1)=O | C22H18ClN3O
